US06576643B2
e) 10,11-Dihydro-7-fluoro-3-methoxy-5H-dibenzo[a,d]cyclohepten-10-one
According to the procedure of Preparation 10(d), except substituting 2-(3-fluorobenzyl)-4-methoxyphenylacetic acid for the 2-benzyl-4-methoxyphenylacetic acid, the title compound was obtained as a white solid: Mp 129-130° C.; MS (ES) m/e 279.2 (M+Na)+.

reactant | 2-(3-fluorobenzyl)-4-methoxyphenylacetic acid | FC=1C=C(CC2=C(C=CC(=C2)OC)CC(=O)O)C=CC1 | C16H15FO3
reactant | 2-benzyl-4-methoxyphenylacetic acid | C(C1=CC=CC=C1)C1=C(C=CC(=C1)OC)CC(=O)O | C16H16O3
product | 10,11-Dihydro-7-fluoro-3-methoxy-5H-dibenzo[a,d]cyclohepten-10-one | FC1=CC2=C(C(CC3=C(C2)C=C(C=C3)OC)=O)C=C1 | C16H13FO2
